US09144557B2
Sodium hydride (461 mg, 11.5 mmol) was slowly added to a solution of 3-bromo-6-nitro-1H-indole (2.32 g, 9.61 mmol) in tetrahydrofuran (10.0 mL). After stirring for 5 min, benzenesulfonyl chloride (1.47 mL, 11.5 mmol) was added dropwise over 10 min. The reaction was stirred an additional 1.5 h before quenching with 5.0 mL of methanol, followed by 10.0 mL water and 20.0 mL methylene chloride. The precipitate was filtered off and washed with an excess of methylene chloride and methanol to give a crème-colored powder for 3-bromo-6-nitro-1-(phenylsulfonyl)-1H-indole (2.80 g, 7.35 mmol, 76%).

reactant | Sodium hydride | 11.5 mmol, 461 mg | [H-].[Na+]
reactant | 3-bromo-6-nitro-1H-indole | 9.61 mmol, 2.32 g | BrC1=CNC2=CC(=CC=C12)[N+](=O)[O-] | C8H5BrN2O2
reactant | benzenesulfonyl chloride | 11.5 mmol, 1.47 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
product | 3-bromo-6-nitro-1-(phenylsulfonyl)-1H-indole | 7.35 mmol, 2.80 g, 76% | BrC1=CN(C2=CC(=CC=C12)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C14H9BrN2O4S
